US05708008
5-(3-fluorobenzoyl)amino-3-(1-methylpiperidin-4-yl)-1H-indole
Beginning with 12.0 mg (0.05 mMol) 5-amino-3-(1-methylpiperidin-4-yl)-1H-indole and 21.0 mg (0.15 mMol) 3-fluorobenzoic acid, 11.8 mg (67%) of the title compound were recovered.

reactant | 5-amino-3-(1-methylpiperidin-4-yl)-1H-indole | 0.05 mMol, 12.0 mg | NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C14H19N3
reactant | 3-fluorobenzoic acid | 0.15 mMol, 21.0 mg | FC=1C=C(C(=O)O)C=CC1 | C7H5FO2
product | 5-(3-fluorobenzoyl)amino-3-(1-methylpiperidin-4-yl)-1H-indole | 11.8 mg, 67% | FC=1C=C(C(=O)NC=2C=C3C(=CNC3=CC2)C2CCN(CC2)C)C=CC1 | C21H22FN3O
